US06770646B2
a) Diethyl 1-(1-naphthalenylmethyl)pyrrole-3,4dicarboxylate
Potassium carbonate (5 g) followed by 1-(chloromethyl)naphthalene (4.60 g) were added to a solution of diethyl 3,4-pyrroledicarboxylate (5.00 g) in acetone (50 ml). The mixture was stirred at room temperature for 4 days, dilute hydrochloric acid (100 ml) was added and the mixture was extracted with ether (2×100 ml). The organic extracts were dried, filtered and evaporated to give the sub-title compound as a solid (7.62 g).

reactant | Potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(chloromethyl)naphthalene | 4.60 g | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | diethyl 3,4-pyrroledicarboxylate | 5.00 g | N1C=C(C(=C1)C(=O)OCC)C(=O)OCC | C10H13NO4
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | Diethyl 1-(1-naphthalenylmethyl)pyrrole-3,4dicarboxylate | 7.62 g | C1(=CC=CC2=CC=CC=C12)CN1C=C(C(=C1)C(=O)OCC)C(=O)OCC | C21H21NO4
